Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base / Iodine-Iodine Containing / 
Naproxen / Doxycycline
 
Attending: ___.
 
Chief Complaint:
Left Femur Fracture 
 
Major Surgical or Invasive Procedure:
Left Femur Open Reduction and Internal Fixation ___
 
History of Present Illness:
Ms. ___ is a ___ yo F with a PMH of ADHD, depression, HTN, and 
hypothyroidism who came to the ED on ___ after a fall with a 
left femur fracture and elevated Cr (2.0 from baseline 1.0) now 
s/p ORIF and now transferring to medicine for management of her 
___.

The patient states that she has been generally well at recent 
baseline, able to walk up a flight of stairs without assistance 
and remaining active in her senior center. However she does 
endorse increased recent fatigue with some lightheadedness 
recently of unclear time course (complained she's "always tired" 
per note from ___ in ___ with associated recent fall). She 
also describes possible worsening of what she describes as 
chronic sinus congestion, with increased sinus pain/congestion, 
rhinorrhea, mucous in throat. She denies recent headaches, 
dizzyness, dysuria, urinary frequency/urgency, diarrhea, nausea, 
vomiting, chest pain, productive cough. On the day of 
presentation she was getting out of bed to go to the shower in 
preparation for a doctors ___ and ___ that she fell 
against the wall, sliding down and hitting her left leg on her 
walker. She was reports being down for roughly 7 hours before 
calling for help, saying that she was stubborn and did not want 
to call; she now regrets not calling before.

In the ED, vitals were T:98.1 ___ 
O2sat:99%RA. Labs were notable for a leukocytosis with a WBC 
count of 21.9 and marked left shift (92.8% polys), Hb 9.7/Hct 
29.6 with MCV 100, and platelets 203. Electrolytes were notable 
for mild hyponatremia (Na 132), HCO3 of 20, and BUN/Cr 35/2.0. 
Ca/Mg/Phos were all normal. CK-MB and troponon T were normal. CK 
was elevated at 644 and lactate up at 3.0. UA was normal except 
for 18 hyaline casts. Blood and urine cultures were sent. 
Non-contrast head CT did not show any evidence of an acute 
intracranial process. Extensive imaging revealed a distal femur 
fracture. She was admitted to ortho-trauma and underwent an ORIF 
for her L femur fracture on ___ and tolerated the procedure 
well with 250mL blood loss, requiring transfusion of 1 unit 
PRBCs before and 1 unit after surgery for low Hct. She received 
an additional 1 unit PRBCs today for persistent low Hct. She 
also got 3 doses of cefazolin 2 g IV Q8H postoperatively. Urine 
culture has now returned negative (final), blood culture with no 
growth to date. Her white count remains elevated at 20.2, and 
H&H have dropped to 7.7/23.3 and MCV has decreased to 97. Na has 
normalized and HCO3 is now 19. CK remained elevated as of ___ 
at 420. Clinically her vital signs have been stable, though 
temperature slightly up in past day to 99.6. She denies any 
symptoms aside from fatigue, sinus congestion, and mild pain in 
knee.
 
Past Medical History:
- Hypothyroidism
- Depression with paranoia
- Short-term memory loss
- Hyperlipidemia
- Hypertension 
- Chronic venous stasis 
- Diarrhea predominant IBS
- GERD
- Recurrent sinus/nasal infections, on chronic bactrim 
- Recurrent right otitis media
- Osteoarthritis 

 
Social History:
___
Family History:
Per OMR, no family history of fractures, diabetes, or HTN. 
Mother had liver cancer and younger brother had fatal MI at age 
___.
 
Physical Exam:
Admission Physical Exam:
Vitals: 98.1 68 121/93 16 96%  
Gen: NAD  
Heart: RRR  
Lungs: CTABL  
Ab: soft NT/ND  
Right upper extremity:  
Skin intact  
Soft, non-tender arm and forearm  
Full, painless AROM/PROM of shoulder, elbow, wrist, and digits  
+EPL/FPL/DIO (index) fire  
+SILT axillary/radial/median/ulnar nerve distributions  
+Radial pulse  
Left upper extremity:  
Skin intact  
Ecchymosis over elbow  
Soft, non-tender arm and forearm  
Full, painless AROM/PROM of shoulder, elbow, wrist, and digits  
+EPL/FPL/DIO (index) fire  
+SILT axillary/radial/median/ulnar nerve distributions  
+Radial pulse  
Right lower extremity:  
Skin intact  
Soft, non-tender thigh and leg  
Tender over R knee  
Full, painless AROM/PROM of hip, knee, and ankle  
___ fire  
+SILT SPN/DPN/TN/saphenous/sural distributions  
___ pulses, foot warm and well-perfused  
Left lower extremity:  
Skin intact  
Soft, non-tender thigh and leg  
Full, painless AROM/PROM of hip, knee, and ankle  
___ fire  
+SILT SPN/DPN/TN/saphenous/sural distributions  
___ pulses, foot warm and well-perfused  

Discharge Physical Exam:
Vitals: Tm:98.8 P:80s BP: 120-150ss/40-50s R: 18 O2: 96-100% RA
General: Alert, oriented, no acute distress.  
HEENT: Sclera anicteric, EOMI, PERRLA, MMM, oropharynx clear. 
Neck: Supple, No JVP
CV: Regular rate and rhythm. Normal S1 + S2. Holosystolic murmur 
heard best over left sternal border. No rubs or gallops  
Lungs: Bibasilar crackles (mild), otherwise CTAB
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding. Diffusely tympanitic to 
percussion.
GU: Foley in place. 
Ext: Warm, well perfused, 2+ pulses, no clubbing or cyanosis. 
Left knee swolen with bandage in place over surgical site, brace 
on. Right knee with ace wrap.
Neuro: Pt refused.

 
Pertinent Results:
Admission Labs:

___ 04:48PM   LACTATE-2.6*
___ 04:15PM   GLUCOSE-121* UREA N-34* CREAT-1.9* 
SODIUM-131* POTASSIUM-7.3* CHLORIDE-100 TOTAL CO2-21* ANION 
GAP-17
___ 04:15PM   CK(CPK)-728*
___ 03:40PM URINE  HOURS-RANDOM
___ 03:40PM URINE  UHOLD-HOLD
___ 03:40PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 03:40PM URINE  RBC-0 WBC-<1 BACTERIA-FEW YEAST-NONE 
EPI-1
___ 03:40PM URINE  HYALINE-18*
___ 03:40PM URINE  MUCOUS-RARE
___ 01:43PM   TYPE-ART COMMENTS-GREEN TOP 
___ 01:43PM   LACTATE-3.0*
___ 01:30PM   GLUCOSE-139* UREA N-35* CREAT-2.0* 
SODIUM-132* POTASSIUM-4.9 CHLORIDE-98 TOTAL CO2-20* ANION GAP-19
___ 01:30PM   estGFR-Using this
___ 01:30PM   CK(CPK)-644*
___ 01:30PM   CALCIUM-9.1 PHOSPHATE-4.4 MAGNESIUM-1.8
___ 01:30PM   WBC-21.9*# RBC-2.95* HGB-9.7*# HCT-29.6* 
MCV-100* MCH-32.8* MCHC-32.7 RDW-13.5
___ 01:30PM   NEUTS-92.8* LYMPHS-3.9* MONOS-3.2 EOS-0.1 
BASOS-0.1
___ 01:30PM   PLT COUNT-203
___ 01:30PM   ___ PTT-23.7* ___

Microbiology:
___ UCX: Negative
___ BCX: NGTD

Studies:
# Lower extremity x-ray, flouro in OR (___): ORIF of distal 
femur fracture. No hardware complications. Multiple fluoroscopic 
images from the operating room demonstrates interval placement 
of a large fracture plate and associated screws fixating a 
fracture of the distal femur at the metaphysis. There is 
improved anatomic alignment.

# Pelvis and hip x-ray (___): No acute fracture or 
dislocation. No evidence of hardware complications status post 
left total hip arthroplasty. 

# Left knee x-ray (___): Nondisplaced periprosthetic 
fracture involving the distal femur and medial femoral condyle. 

# Left elbow x-ray (___): No acute fracture or dislocation. 
No evidence of hardware complications status post left 
ulnotrochlear arthroplasty. 

# Chest x-ray (___): Cardiac silhouette size is borderline 
enlarged. The aorta is tortuous. Mediastinal and hilar contours 
are unchanged. Atherosclerotic calcifications are noted 
diffusely within the aorta. Pulmonary vasculature is normal. 
Lungs are clear without focal consolidation. No pleural effusion 
or pneumothorax is present.  No acute osseous abnormalities 
identified. 

# CT left lower extremity, non-contrast (___), Preliminary 
report: 
1. Periprostatic fracture involving the lateral and medial 
femoral epicondyles. 
2. Limited evaluation of the total knee arthroplasty due to 
artifact. 

# CT head, non-contrast (___): No evidence of acute 
intracranial process.  Partial opacification of the right 
mastoid air cells may reflect inflammatory process in the area. 
No fracture is identified.

# ECG (___): NSR, rate @ 72bpm. no change from prior.

# CXR (___): 
New small bilateral pleural effusion

Discharge Labs:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 05:00    15.0* 2.78* 9.3* 26.7* 96 33.4* 34.8 17.6* 
177 
BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Ct ___ 
___ 05:00        177   
___ 05:00    10.3 30.9   0.9 
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 05:00    ___ 135 4.0 ___ 
CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 
___ 05:00          8.0* 1.8* 1.8 
HEMATOLOGIC calTIBC VitB12 Hapto Ferritn TRF 
___ 05:10    157* GREATER TH1 100 254* 121* 
___ IRON: 22
 
Brief Hospital Course:
Ms. ___ is a ___ yo F with a PMH of ADHD, depression, HTN, and 
hypothyroidism who came to the ED on ___ after a fall with a 
left femur fracture now s/p ORIF ___omplicated by ___.

Acute Issues:

# Left Femur Fracture s/p ORIF ___: As above, the patient 
presented after a fall and was seen by orthopedic surgery who 
took her to OR for ORIF. During her procedure she received one 
unit pRBCs for blood loss and otherwise did well. Her creatinine 
was elevated after the procedure to 2 (baseline 1.0) so was 
transferred to medicine for management. She was treated with 
oral pain medication, worked with physical therapy and did well 
until discharge to rehabilitation facility. She wil
follow up with orthopedic surgery clinic in 2 weeks. 

# Acute kidney injury: The patient was noted to have a Cr of 2.0 
up from baseline of 1.0-1.1. This was likely pre-renal from 
dehydration as well as hypovolemia from surgery and improved 
with intravenous fluids. Her home furosemide and lisinopril were 
initially held and were restarted at discharge as creatinine had 
decreased to 0.6. 

# Anemia: The patient presented with initial macrocytic anemia, 
with H&H 9.7/29.6 down from 12.___/39.2 when last checked in ___. MCV was also increased on admission at 100. TSH, B12 were 
checked and normal. Iron studies showed a low iron, normal 
ferritin, low TIBC indicating a possible mixed picture of iron 
deficiency as well as some anemia of chronic disease/bone marrow 
dysplasia. She was started on iron supplementation and received 
a total of 2 units packed rbcs (1 intraoperative, 1 on POD2) and 
Hb was back to baseline at discharge. 

# Leukocytosis: The patient presented with a left shift (92.8% 
polys) and leukocytosis to 21.9 on ___. She was afebrile and 
did not have any infectious symptoms. A urinalysis, urine 
culture, and CXR were negative and a blood culture had no growth 
at the time of discharge. This was most likely due to a stress 
response from fall, fracture, and surgery and had trended down 
by discharge. 

Chronic Issues:

# Hypertension: Patient was changed from home atenolol to 
metoprolol during hospitalized, with instructions to resume home 
medication at discharge. Lisinopril was initially held in 
setting ___ but was restarted on discharge. 

# Hypothyroidism: TSH 1.8 during hospitalization. Continued on 
home levothyroxine. 

# Chronic sinus congestion/seasonal allergies: Continued on home 
fexofenadine. 

# Depression and paranoia: Continued on home duloxetine, 
topiramate, quetiapine. 

# Memory loss: Continued on home memantine. 

# GERD: Continued on home pantoprazole. 

Transitional Issues:
# CODE: Full code 
# CONTACT: ___ (son) ___, who is her health 
care proxy
- Please repeat CBC, chem panel on ___ to monitor for 
anemia, leukocytosis, Cr
- Please evaluate need for outpatient colonoscopy given iron 
deficiency anemia at follow up
- Patient needs staples removed by orthopedic surgery NP at time 
listed above in 2 weeks 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 20 mg PO DAILY 
2. Furosemide 40 mg PO DAILY:PRN leg swelling 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Memantine 5 mg PO BID 
5. Pantoprazole 40 mg PO Q12H 
6. Topiramate (Topamax) 50 mg PO DAILY 
7. Topiramate (Topamax) 100 mg PO QHS 
8. QUEtiapine Fumarate 25 mg PO TID 
9. Fexofenadine 180 mg PO DAILY 
10. Duloxetine 80 mg PO DAILY 
11. Rozerem (ramelteon) 8 mg oral QHS: PRN Insomnia 
12. Atenolol 50 mg PO BID 
13. azelastine 137 mcg nasal BID PRN nasal stuffiness 

 
Discharge Medications:
1. Duloxetine 80 mg PO DAILY 
2. Fexofenadine 180 mg PO DAILY 
3. Furosemide 40 mg PO DAILY:PRN leg swelling 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Lisinopril 20 mg PO DAILY 
6. Memantine 5 mg PO BID 
7. Pantoprazole 40 mg PO Q12H 
8. QUEtiapine Fumarate 25 mg PO TID 
9. Topiramate (Topamax) 50 mg PO DAILY 
10. Topiramate (Topamax) 100 mg PO QHS 
11. Ferrous Sulfate 325 mg PO DAILY 
12. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*20 Tablet Refills:*0
13. Atenolol 50 mg PO BID 
14. azelastine 137 mcg nasal BID PRN nasal stuffiness 
15. Rozerem (ramelteon) 8 mg oral QHS: PRN Insomnia 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
1. Left Femur fracture s/p ORIF ___
2. ___
3. Anemia
4. Leukocytosis
5. Hypertension
6. Hypothyroidism
7. Depression
8. Dementia
9. GERD

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure to take care of you during your 
hospitalization at ___. You were admitted to the hospital 
after you suffered a fracture of your left femur. You were 
admitted to the orthopedic surgery service and had your fracture 
repaired on ___. After surgery you were noted to have a 
decrease in your kidney function so you were transferred to the 
general medicine service. We gave you intraveous fluids and your 
kidney function returned to normal before discharge. The 
orthopedic surgery team would like to see you at the appointment 
listed below to remove the staples from your surgery. 

You were noted to be anemic (low red blood cell count) while in 
the hospital and received 2 units of blood for this problem. We 
did a workup which did not show that your iron level was low. We 
started  you on iron supplements for this which we would like 
you to continue to take. Your blood counts came up prior to 
discharge.

Please continue to take the rest of your medication as 
prescribed. Best of luck in your future health.
Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___